US08030306B2
To a round bottom flask was added 4-(8-(4-chlorophenyl)-3-(hydroxymethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile (25 mg, 0.0454 mmol), di-tert-butyl diethylphosphoramidite (34 mg, 0.136 mmol), 1,2,4-triazole (9.5 mg, 0.136 mmol) and 1,2-dichloroethane (3 ml). The reaction was stirred at 60° C. for 24 hr. After this time the reaction was cooled to rt. H2O2(7 N, 0.5 ml) was then added and the reaction was stirred at rt for 60 min. Na2SO3 (10%, 1 ml) was added and the reaction was stirred at rt for an additional 30 min. After this time, the reaction mixture was concentrated. The residue was diluted with EtOAc (50 ml) and the resulting solution was washed with water (25 ml) and saturated NaCl (25 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude intermediate was purified by silica gel column chromatography (4 g silica gel) eluting with a gradient of 0-50% EtOAc/Hex to give di-tert-butyl (8-(4-chlorophenyl)-7-(4-cyanophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl phosphate as clear oil. To this purified intermediate was added CH2Cl2(2 ml) and TFA (0.5 ml). The reaction was stirred at rt for 10 min. After this time the solution was concentrated. The crude product was purified by preparative HPLC eluting with water/MeOH to give the product (28 mg). The product was then dissolved in water (1 ml) and 1N NaOH (1N, 0.0445 mmol) was added. The resulting solution was concentrated on a lyophilizer to give the title compound, sodium (8-(4-chlorophenyl)-7-(4-cyanophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl hydrogenphosphate, as a white solid (29 mg, 94%).

reactant | 4-(8-(4-chlorophenyl)-3-(hydroxymethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 0.0454 mmol, 25 mg | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=C(C#N)C=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)CO | C27H18ClF3N6O2
reactant | di-tert-butyl diethylphosphoramidite | 0.136 mmol, 34 mg | C(C)N(P(OC(C)(C)C)OC(C)(C)C)CC | C12H28NO2P
reactant | 1,2,4-triazole | 0.136 mmol, 9.5 mg | N1N=CN=C1 | C2H3N3
reactant | H2O2 | 7 N, 0.5 ml | OO | H2O2
reactant | Na2SO3 | 1 ml | [O-]S(=O)[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | di-tert-butyl (8-(4-chlorophenyl)-7-(4-cyanophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl phosphate | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCC1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)C#N)=O)CC=2C(=NC(=CC2)C(F)(F)F)C | C35H35ClF3N6O5P
